US05478496
With exclusion of moisture, 0.1 mol of dicyclohexylcarbodiimide in dichloromethane is added to a mixture of 0.1 mol of 2-heptyl-5-p-hydroxyphenyl-1,3,4-thiadiazole and 0.1 mol of optically active 2-methyl-2-butylcyanoacetic acid in 200 mL of dichloromethane, while cooling with ice. The mixture is stirred for a further 12 hours at room temperature, the dicyclohexyl urea is filtered off and 2-[4-(2-cyano-2-methylhexanoyloxy)-phenyl]-5-n-heptyl-1,3,4-thiadiazole is isolated by working up in the usual way.

reactant | dicyclohexylcarbodiimide | 0.1 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-heptyl-5-p-hydroxyphenyl-1,3,4-thiadiazole | 0.1 mol | C(CCCCCC)C=1SC(=NN1)C1=CC=C(C=C1)O | C15H20N2OS
reactant | 2-methyl-2-butylcyanoacetic acid | CC(C(=O)O)(CCCC)C#N | C8H13NO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-[4-(2-cyano-2-methylhexanoyloxy)-phenyl]-5-n-heptyl-1,3,4-thiadiazole | C(#N)C(C(=O)OC1=CC=C(C=C1)C=1SC(=NN1)CCCCCCC)(CCCC)C | C23H31N3O2S
